* ====================================================
* Transient-Safe Derk Pentode Model: PCL805_Safe
* Singularity-free & ngspice 46 Compatible (MIN/MAX Clamped)
* Fitted from PCL805 uTracer measurement dataset
* ====================================================
.SUBCKT PCL805_Safe 1 2 3 4 PARAMS: RGI=2000 CCG1=0 CCG2=0 CG1G2=0 CPG1=0 CCP=0 ; A G2 G1 C

* 1. Smooth positive effective voltages (Eliminates negative plate singularity)
E_VA_EFF 10 0 VALUE={ 0.5 * (V(1,4) + SQRT(V(1,4)*V(1,4) + 0.01)) }
E_VS_EFF 20 0 VALUE={ 0.5 * (V(2,4) + SQRT(V(2,4)*V(2,4) + 0.01)) }

* 2. Koren Space Potential E1 (MIN/MAX numerical clamp)
E1 7 0 VALUE={ V(20)/29.9520 * LOG(1 + EXP(MIN(MAX(29.9520*(1/9.8966 + V(3,4)/SQRT(2300.7950 + V(20)*V(20))), -50), 50))) }

* 3. Koren Space Current Ip (Inlined smooth-positive inside PWR to prevent Newton NaNs)
E_IP 80 0 VALUE={ PWR(0.5 * (V(7) + SQRT(V(7)*V(7) + 1e-12)), 1.2784) }

* 4. Smooth negative plate voltage cutoff factor (ngspice 46 compatible without IF)
E_CUTOFF 95 0 VALUE={ EXP((V(1,4) - SQRT(V(1,4)*V(1,4) + 0.0001)) / 4.0) }

* 5. Current Sources (Inlined Newton-safe denominator)
G2 2 4 VALUE={ (V(80) / 4223.2603) * (1.0 + 19.5727 / (1.0 + 6.739905607e-02 * V(10))) * V(95) }
G1 1 4 VALUE={ V(80) * (8.330406679e-03 + 4.432887806e-07 * V(10) - (1.0 / (1.0 + 6.739905607e-02 * V(10))) * 8.330406679e-03) * V(95) }

* 6. Grid Diode & Parasitic Capacitances
R1 3 5 {RGI}
D3 5 4 DX
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
RCP 1 4 1G
RCS 2 4 1G
C1 3 4 {CCG1}
C2 2 4 {CCG2}
C3 3 2 {CG1G2}
C4 3 1 {CPG1}
C5 1 4 {CCP}
.ENDS PCL805_Safe
